US04578381
In 100 ml of ethanol, 1.66 g of ethyl p-chlorobenzate, 0.5 g of sodium ethylate and 2.09 g of 2-amino-3-(2-quinolon-3-yl)propionic acid were added and the whole mixture was placed in an autoclave. The reaction was carried out under 110 atmospheric pressure at 140°-150° C. for 6 hours. After completion of the reaction, the reaction mixture was cooled and concentrated under a reduced pressure. The residue was dissolved in 200 ml of chloroform, washed with 1%-potassium carbonate aqueous solution, a diluted hydrochloric acid and water in this order, then the chloroform layer was dried with sodium sulfate. The solvent was removed by distillation, the residue was recrystallized from ethanol-water to obtain 300 mg of 2-(4-chlorobenzoylamino)-3-(2-quinolon-3-yl)propionic acid in the form of white powdery product.

reactant | ethyl p-chlorobenzate | 1.66 g | ClC1=CC=C(C(=O)OCC)C=C1 | C9H9ClO2
reactant | sodium ethylate | 0.5 g | CC[O-].[Na+]
reactant | 2-amino-3-(2-quinolon-3-yl)propionic acid | 2.09 g | NC(C(=O)O)CC=1C(NC2=CC=CC=C2C1)=O | C12H12N2O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-chlorobenzoylamino)-3-(2-quinolon-3-yl)propionic acid | 300 mg | ClC1=CC=C(C(=O)NC(C(=O)O)CC=2C(NC3=CC=CC=C3C2)=O)C=C1 | C19H15ClN2O4
